US05098996
Bromomethylbenzoyl-glycine t-butyl ester.
α-Bromotoluic acid (5.93 g, 28 mmol) and glycine t-butyl ester hydrochloride (4.4 g, 26 mmol) and dicyclohexylcarbodiimide (6.23 g, 30 mmol) were added to 120 ml of DMF/ethyl acetate (1:1). Diisopropylethylamine (26 mmol) was added dropwise. The mixture was filtered, extracted with acid/base, and dried (Na2SO4). The organic solution was evaporated and triturated with petroleum ether with scratching to give white crystals (3.1 g, 36% yield). Mp 98°-102°.

reactant | α-Bromotoluic acid | 28 mmol, 5.93 g | BrCC=1C(=CC=CC1)C(=O)O | C8H7BrO2
reactant | glycine t-butyl ester hydrochloride | 26 mmol, 4.4 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | dicyclohexylcarbodiimide | 30 mmol, 6.23 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Diisopropylethylamine | 26 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF ethyl acetate | 120 ml | CN(C)C=O.C(C)(=O)OCC
product | Bromomethylbenzoyl-glycine t-butyl ester | 3.1 g, 36% yield | C(C)(C)(C)OC(CN(C(C1=CC=CC=C1)=O)CBr)=O | C14H18BrNO3
